US04730061
N-(2-Ethyl-6-methylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide
The title compound was prepared from N-(2-ethyl-6-methylphenyl)-3-oxo-butanamide and N,N-dimethylhydrazine in a manner similar to the method described in Example 2. (Yield: 58%).

reactant | N-(2-ethyl-6-methylphenyl)-3-oxo-butanamide | C(C)C1=C(C(=CC=C1)C)NC(CC(C)=O)=O | C13H17NO2
reactant | N,N-dimethylhydrazine | CN(N)C | C2H8N2
product | N-(2-Ethyl-6-methylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide | Yield: 58% | C(C)C1=C(C(=CC=C1)C)NC(=O)C1=C(OC(=CC1=O)C)C | C17H19NO3
